US08383821B2
4′-Methoxy-3′-(((4-phenylpiperidin-4-yl)methoxy)methyl)biphenyl-4-carbonitrile.
tert-Butyl 4-(((4′-cyano-4-methoxybiphenyl-3-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate (47 mg, 0.092 mmol) was dissolved in dichloromethane (2 mL) and trifluoroacetic acid (1 mL). The reaction was stirred for 45 min and concentrated. The residue was dissolved in methanol and loaded onto an strong cation exchange cartridge. The cartridge was flushed with plenty of methanol which was discarded. The product was then eluted using 2 M ammonia in methanol. The solvent was evaporated to give 34 mg (90%) as a colorless oil. Retention time: 2.20 min. (Phenomenex C18 3.0×50 mm, 10% MeOH/90% H2O/0.1% TFA→90% MeOH/10% H2O/0.1% TFA, Gradient time=3 min., Flow rate=4 mL/min.) Mass spec.: 413.39 (MH)+. Accurate mass spec.: m/z 413.2245 [MH]+, Δ=3.9 ppm.

reactant | tert-Butyl 4-(((4′-cyano-4-methoxybiphenyl-3-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.092 mmol, 47 mg | C(#N)C1=CC=C(C=C1)C1=CC(=C(C=C1)OC)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C32H36N2O4
reactant | MeOH | CO | CH4O
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4′-Methoxy-3′-(((4-phenylpiperidin-4-yl)methoxy)methyl)biphenyl-4-carbonitrile | COC1=C(C=C(C=C1)C1=CC=C(C=C1)C#N)COCC1(CCNCC1)C1=CC=CC=C1 | C27H28N2O2
